US07629342B2
1C. Preparation of 2-Benzyl-(benzyloxy)-4,5-bis(4-chlorophenyl)pyridazin-3(2H)-one
To a round bottom flask was added 2-benzyl-6-(benzyloxy)-4,5-dichloropyridazin-3(2H)-one (20 gm, 55.4 mmol), 4-chlorophenylboronic acid (19.07 gm, 121.88 mmol), 2N sodium carbonate (124.7 ml, 249.3 mmol), toluene (200 ml) and Pd(PPh3)4 (3.2 gm, 2.77 mmol). The reaction was stirred at 100° C. for 36 hrs. After this time, the solution was cooled to rt and the organic layer was separated. The organic layer was washed with water (100 ml), saturated aqueous NaCl (100 ml). The organic layer was dried (MgSO4), filtered and concentrated. The crude material was recrystallized from methanol (150 ml) at −25° C. The solid was collected by filtration to give the title compound, 2-benzyl-6-(benzyloxy)-4,5-bis(4-chlorophenyl)pyridazin-3(2H)-one, (19.5 gm, 70% yield) as light yellow solid. MS (M+H)=513.1.

reactant | 2-benzyl-6-(benzyloxy)-4,5-dichloropyridazin-3(2H)-one | 55.4 mmol, 20 gm | C(C1=CC=CC=C1)N1N=C(C(=C(C1=O)Cl)Cl)OCC1=CC=CC=C1 | C18H14Cl2N2O2
reactant | 4-chlorophenylboronic acid | 121.88 mmol, 19.07 gm | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | sodium carbonate | 249.3 mmol, 2N, 124.7 ml | C([O-])([O-])=O.[Na+].[Na+]
catalyst | Pd(PPh3)4 | 2.77 mmol, 3.2 gm | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 2-benzyl-6-(benzyloxy)-4,5-bis(4-chlorophenyl)pyridazin-3(2H)-one | 19.5 gm, 70% yield | C(C1=CC=CC=C1)N1N=C(C(=C(C1=O)C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)OCC1=CC=CC=C1 | C30H22Cl2N2O2
